US08022062B2
3-tert-Butoxycarbonyl-7-chloro-6-ethynyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add a solution of potassium carbonate (999 mg, 7.2 mmol) in water (5 mL) to 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trimethylsilanylethynyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (180 mg, 0.48 mmol) in methanol (10 mL) and stir at room temperature, under nitrogen for 1.5 h. Add di-tert-butyl-dicarbonate (115 mg, 0.53 mmol) in dichloromethane (8 mL) and stir for 3 days. Add another solution of di-tert-butyl-dicarbonate (115 mg, 0.53 mmol) in dichloromethane (5 mL) and stir for 2 h. Add water (10 mL) and dichloromethane (10 mL) and separate the organic layer. Extract the aqueous layer with dichloromethane (3×10 mL) and combine the organic layers. Dry using an ISCO® phase separator and concentrate. Purify by chromatography on silica gel eluting with isohexane/EtOAc (1:0 to 4:1 gradient over 30 min) to give the title compound as a solid (150 mg, 100%). MS (ES+) m/z: 328 (M+Na)+.

reactant | potassium carbonate | 7.2 mmol, 999 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trimethylsilanylethynyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.48 mmol, 180 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C#C[Si](C)(C)C | C17H19ClF3NOSi
reactant | di-tert-butyl-dicarbonate | 0.53 mmol, 115 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl-dicarbonate | 0.53 mmol, 115 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 5 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-tert-Butoxycarbonyl-7-chloro-6-ethynyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 150 mg, 100% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C#C | C17H20ClNO2
